US04414390
A mixture of 5-{3-carbamoylmethylimidazo-[1,2-a]pyridine-2-yl}-8-methoxycarbostyril (1.6 g), potassium hydroxide (2.6 g), water (3 ml) and ethanol (9 ml) was refluxed for 1 hour. After completion of reaction, water was added to the reaction mixture, which was then treated with activated carbon and adjusted to pH of about 1 by the addition of concentrated hydrochloric acid followed by allowing to stand overnight. Crystals which precipitated were collected by filtration and recrystallized from dilute hydrochloric acid to give 0.9 g of 5-{3-carboxymethylimidazo[1,2-a]pyridine-2-yl}-8-methoxycarbostyril hemihydrate.

reactant | 5-{3-carbamoylmethylimidazo-[1,2-a]pyridine-2-yl}-8-methoxycarbostyril | 1.6 g | C(N)(=O)CC1=C(N=C2N1C=CC=C2)C2=C1C=CC(NC1=C(C=C2)OC)=O | C19H16N4O3
reactant | potassium hydroxide | 2.6 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | 9 ml | C(C)O | C2H6O
solvent | water | 3 ml | O | H2O
product | 5-{3-carboxymethylimidazo[1,2-a]pyridine-2-yl}-8-methoxycarbostyril hemihydrate | 0.9 g | O.C(=O)(O)CC1=C(N=C2N1C=CC=C2)C2=C1C=CC(NC1=C(C=C2)OC)=O.C(=O)(O)CC2=C(N=C1N2C=CC=C1)C1=C2C=CC(NC2=C(C=C1)OC)=O | InChI=1S/2C19H15N3O4.H2O/c2*1-26-14-7-5-11(12-6-8-16(23)21-19(12)14)18-13(10-17(24)25)22-9-3-2-4-15(22)20-18;/h2*2-9H,10H2,1H3,(H,21,23)(H,24,25);1H2
